.SUBCKT TINVX12H7R A OE VDD VSS Y
*.PININFO A:I OE:I Y:O VDD:B VSS:B
MNM0 net9 net27 VSS VSS nm1p2_svt_lp W=1.8u L=60n m=1
MNM1 Y net9 VSS VSS nm1p2_svt_lp W=1.8u L=60n m=1
MNM2 net9 OEN VSS VSS nm1p2_svt_lp W=1.8u L=60n m=1
MPM2 Y net031 VDD VDD pm1p2_svt_lp W=2.28u L=60n m=1
MPM1 net031 net27 VDD VDD pm1p2_svt_lp W=2.28u L=60n m=1
MPM0 net031 OE VDD VDD pm1p2_svt_lp W=2.28u L=60n m=1
XI2 OE VDD VSS OEN / INV pl=6E-08 pw=7.6e-07 nl=6E-08 nw=6e-07
XI1 A VDD VSS net27 / INV pl=6E-08 pw=2.28e-06 nl=6E-08 nw=1.8e-06
XI0 OE OEN net9 net031 VDD VSS / TG pl=6E-08 pw=2.22e-06 nl=6E-08 nw=1.74e-06
.ENDS
