.SUBCKT XOR2X3H7R A B VDD VSS Y
*.PININFO A:I B:I Y:O VDD:B VSS:B
XI0 AN A BN net19 VDD VSS / TG pl=6e-08 pw=1.9e-07 nl=6e-08 nw=1.5e-07
XI1 B VDD VSS BN / INV pl=6e-08 pw=2.7e-07 nl=6e-08 nw=2.1e-07
XI4 A VDD VSS AN / INV pl=6e-08 pw=2.1e-07 nl=6e-08 nw=1.7e-07
XI2 net19 VDD VSS Y / INV pl=6e-08 pw=5.7e-07 nl=6e-08 nw=4.5e-07
XI3 BN A AN VDD VSS net19 / TSINV pl=6e-08 pw=2.7e-07 nl=6e-08 nw=2.1e-07
.ENDS
