.SUBCKT XOR3X4H7R A B C VDD VSS Y
*.PININFO A:I B:I C:I Y:O VDD:B VSS:B
XXI16 A AN net55 net45 VDD VSS / TG pl=6e-08 pw=2.5e-07 nl=6e-08 nw=1.9e-07
XXI14 net57 net45 net59 net49 VDD VSS / TG pl=6e-08 pw=2.5e-07 nl=6e-08 nw=2e-07
XXI15 net45 VDD VSS net57 / INV pl=6e-08 pw=3.1e-07 nl=6e-08 nw=2.5e-07
XXI17 B VDD VSS net55 / INV pl=6e-08 pw=3.1e-07 nl=6e-08 nw=2.5e-07
XXI11 net49 VDD VSS Y / INV pl=6e-08 pw=7.6e-07 nl=6e-08 nw=6e-07
XXI19 A VDD VSS AN / INV pl=6e-08 pw=3.1e-07 nl=6e-08 nw=2.5e-07
XXI12 C VDD VSS net59 / INV pl=6e-08 pw=3.1e-07 nl=6e-08 nw=2.5e-07
XXI18 net55 AN A VDD VSS net45 / TSINV pl=6e-08 pw=3.1e-07 nl=6e-08 nw=2.5e-07
XXI13 net59 net45 net57 VDD VSS net49 / TSINV pl=6e-08 pw=3.1e-07 nl=6e-08 nw=2.5e-07
.ENDS
